### PR TITLE
Define the smash product of pointed types and refactor pointed types

### PR DESCRIPTION
**Pull request by fredrik-bakke**
### Summary
- Add a module on the pointed unit type.
- Add a module on pushouts of pointed types.
- Add a module on cocones under spans of pointed types.
- Define the smash product of pointed types and derive some basic properties.
- Redefine the wedge sum of pointed types in terms of pushouts of pointed types.
- Small additions to pushouts and misc.
- Replace `pt` with `point` in general.
- Remove duplicate definition of `ev-point`.
- Add an optimization to `remove_unused_imports.py` by prioritizing the files in order of most recently changed.
- Add textual names to the different pointed constructions.
- ~Change the notation for the join from `_*_` to `_⋆_`, as the asterisk is already quite heavily overloaded.~
- Add notes on symbol usage.
- Change notation for pointed type constructions to using the asterisk operator `∗` instead of the asterisk `*`.

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
Here we go! I really need to learn how to rebase properly some time. 😅

**Comment by EgbertRijke** [comment]
Would `smash-product` be nicer for a naming scheme than `smash-prod`?

**Comment by fredrik-bakke** [comment]
I guess, but `prod` is already very prevalent in the library...

**Comment by EgbertRijke** [comment]
> Here we go! I really need to learn how to rebase properly some time. 😅

If you figure out how to do it properly, let me know:)

File: src/structured-types/pointed-unit-type.lagda.md [hunk 1]
```diff
@@ -0,0 +1,43 @@
...
+## Properties
+
+```agda
+gap-pointed-unit : {l : Level} (X : Pointed-Type l) → X →* pointed-unit
+pr1 (gap-pointed-unit X) _ = star
+pr2 (gap-pointed-unit X) = refl
+
+cogap-pointed-unit : {l : Level} (X : Pointed-Type l) → pointed-unit →* X
+pr1 (cogap-pointed-unit X) _ = point-Pointed-Type X
+pr2 (cogap-pointed-unit X) = refl
```
Comment (fredrik-bakke) [inline src/structured-types/pointed-unit-type.lagda.md:42]: Do you have a better name suggestion for these maps?

Comment (EgbertRijke) [reply src/structured-types/pointed-unit-type.lagda.md:42]: `pointed-unit` -> `unit-Pointed-Type`

Comment (fredrik-bakke) [reply src/structured-types/pointed-unit-type.lagda.md]: Thanks, that's a lot better.

**Comment by EgbertRijke** [comment]
For notation in agda-unimath I usually go by one of the following two options:
- Either go by the standard notation
- Use a descriptive name
I don't like to make up notation too much. We make up enough notation already if we "don't" do it.

**Comment by fredrik-bakke** [comment]
I understand. My concern is that very many things in the library use the asterisk. E.g. pointed types, groups, and multiplication. Moreover the star operator _is_ used for the join in some places. For instance [nlab:join of simplicial spaces](https://ncatlab.org/nlab/show/join+of+simplicial+sets), [nlab:join of topological spaces](https://ncatlab.org/nlab/show/join+of+topological+spaces).

**Comment by EgbertRijke** [comment]
But I'd still say that if all the time we choose to employ substandard notation in the library, by the argument that the standard notation is already used somewhere else, then we will quickly get a library riddled with strange-looking symbols. I would like to prevent that, if possible.

**Comment by fredrik-bakke** [comment]
Actually, come to think of it, it would make sense to use the asterisk operator instead of the asterisk for pointed types.
Just compare the following two expressions
```agda
(A ∨∗ B) →∗ (A ×∗ B)
```
as opposed to the current
```agda
(A ∨* B) →* (A ×* B)
```
This is more in line with the "standard" notation for pointed things, which usually uses a subscript asterisk in my experience.

**Comment by EgbertRijke** [comment]
> Actually, come to think of it, it would make sense to use the asterisk operator instead of the asterisk for pointed types. Just compare the following two expressions
> 
> ```agda
> (A ∨∗ B) →∗ (A ×∗ B)
> ```
> 
> as opposed to the current
> 
> ```agda
> (A ∨* B) →* (A ×* B)
> ```
> 
> This is more in line with the "standard" notation for pointed things, which usually uses a subscript asterisk in my experience.

How did you get the subscript asterisks?

**Comment by fredrik-bakke** [comment]
`\ast`

**Comment by EgbertRijke** [comment]
> \ast

I agree, it looks better!

File: src/group-theory/group-solver.lagda.md [hunk 2]
```diff
@@ -19,67 +33,95 @@ way and removes units and inverses next to the original.
...
-data Fin : ℕ → UU where zero-Fin : ∀ {n} → Fin (succ-ℕ n) succ-Fin : ∀ {n} → Fin
-n → Fin (succ-ℕ n)
-
-finEq : ∀ {n} → (a b : Fin n) → is-decidable (Id a b) finEq zero-Fin zero-Fin =
-inl refl finEq zero-Fin (succ-Fin b) = inr (λ ()) finEq (succ-Fin a) zero-Fin =
-inr (λ ()) finEq (succ-Fin a) (succ-Fin b) with finEq a b ... | inl eq = inl (ap
-succ-Fin eq) ... | inr neq = inr (λ { refl → neq refl})
-
-getVec : ∀ {n} {l} {A : UU l} → vec A n → Fin n → A getVec (x ∷ v) zero-Fin = x
+```agda
```
Comment (fredrik-bakke) [inline src/group-theory/group-solver.lagda.md:36]: This opening tag seemed to be missing. Also, I had to comment out some code due to the definition of `in-list` being missing.

File: src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md [hunk 3]
```diff
@@ -0,0 +1,128 @@
...
+  pr1 (inl-pushout-Pointed-Type f g) =
+    inl-pushout (map-pointed-map S A f) (map-pointed-map S B g)
+  pr2 (inl-pushout-Pointed-Type f g) = refl
+
+  inr-pushout-Pointed-Type :
+      (f : S →∗ A) (g : S →∗ B) → B →∗ pushout-Pointed-Type f g
+  pr1 (inr-pushout-Pointed-Type f g) =
+    inr-pushout (map-pointed-map S A f) (map-pointed-map S B g)
+  pr2 (inr-pushout-Pointed-Type f g) =
+    equational-reasoning
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md:64]: If we need to have any control over this specific equation, which I imagine we might need at some point, then equational reasoning isn't the best option.

File: src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md [hunk 4]
```diff
@@ -0,0 +1,128 @@
...
+
+Given a span of pointed maps, then the pushout is in fact a pushout diagram in
+the category of pointed types.
+
+## Definition
+
+```agda
+module _
+  {l1 l2 l3 : Level}
+  {S : Pointed-Type l1} {A : Pointed-Type l2} {B : Pointed-Type l3}
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md:34]: Hmmm I think so. The pointed maps will have to carry the information of which points their domain and codomain is pointed at for the `preserves-point-pointed-map` witness to make sense I think.

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md:34]: Also, it seems to be working for the wedge and smash product currently at the very least. Let's change it later, if it turns out not to be sufficient.

File: src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md [hunk 5]
```diff
@@ -0,0 +1,128 @@
...
+      ( map-pointed-map S B g)
+      ( point-Pointed-Type A)
+```
+
+## Properties
+
+### The pushout of a pointed map along a pointed map is pointed
+
+```agda
+  inl-pushout-Pointed-Type :
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md:53]: I'm with you on that.

File: src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md (hunk 3 above)
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md:64]: A side remark: if we were to define the pushout to be pointed at `inr` instead, we could use one less `inv` in this proof.

File: src/synthetic-homotopy-theory/cocones-under-spans-of-pointed-types.lagda.md [hunk 6]
```diff
@@ -0,0 +1,94 @@
...
+
+  vertical-pointed-map-cocone-Pointed-Type : B →∗ X
+  vertical-pointed-map-cocone-Pointed-Type = pr1 (pr2 c)
+
+  vertical-map-cocone-Pointed-Type :
+    type-Pointed-Type B → type-Pointed-Type X
+  vertical-map-cocone-Pointed-Type =
+    pr1 vertical-pointed-map-cocone-Pointed-Type
+
+  coherence-square-cocone-Pointed-Type :
```
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/cocones-under-spans-of-pointed-types.lagda.md:77]: Aaaaahh, so if you have a coherence square

```md
A --i--> B
|        |
f        g
v        v
X --j--> Y
```
with pointedness preservation proofs `F, G, I, J` and unpointed coherence square proof `H`, then you want an additional coherence proof of type

```agda
ap j F ∙ inv (ap g I) ＝ H a
```
?

[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/cocones-under-spans-of-pointed-types.lagda.md:77]: I think it we say that a pointed type is a pointed pushout, then that would be expected, yes. But there should also be a theorem that a pointed type is a pointed pushout if and only if its underlying type is an ordinary pushout. And the same for pullbacks. You'll surely need those theorems at some point, along with the pointed universal property of pointed pushouts, and so on, but it might be a lot of work so it doesn't need to happen in this PR.

File: src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md (hunk 4 above)
[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md:34]: The reason why we will probably need to make them explicit is that our Sigma-types don't have eta-equality. I.e., not every element of a Sigma-type is definitionally equal to a pair.

[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md:34]: On the other hand, if it seems to work, then why not have them implicit?:)

[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/pushouts-of-pointed-types.lagda.md:34]: Hmmm, let's fix it when/if it becomes an issue 🙃

File: src/synthetic-homotopy-theory/cocones-under-spans-of-pointed-types.lagda.md (hunk 6 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/cocones-under-spans-of-pointed-types.lagda.md:77]: I realize now that this is precisely the purpose of pointed homotopies. Thanks for pointing it out!

File: src/group-theory/group-solver.lagda.md (hunk 2 above)
Comment (EgbertRijke) [reply src/group-theory/group-solver.lagda.md:36]: The group solver broke because at some point I changed things in lists, and while I was able to fix the other parts of the library that used lists, I wasn't able to fix the group solver. The code here is not at the standards of our library, and I've been unable to understand it.

Comment (fredrik-bakke) [reply src/group-theory/group-solver.lagda.md:36]: Alright. At least this way it's properly formatted markdown. Let's just leave it like this 😅

File: src/synthetic-homotopy-theory/cocones-under-spans-of-pointed-types.lagda.md (hunk 6 above)
[the remark this answers is not in the document]
Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/cocones-under-spans-of-pointed-types.lagda.md:93]: Okay, I've switched to coherence squares of pointed types now. Let me know if this is good.

[the remark this answers is not in the document]
Comment (EgbertRijke) [reply src/synthetic-homotopy-theory/cocones-under-spans-of-pointed-types.lagda.md:93]: It's very good!

**Comment by fredrik-bakke** [comment]
Sorry, I see I forgot to `make pre-commit`. However, I figured out how to do `compute-glue-cogap`, so I'll add that before wrapping up the PR later today.

**Comment by fredrik-bakke** [comment]
And by later today I meant right now apparently 😅

File: src/synthetic-homotopy-theory/cocones-under-spans-of-pointed-types.lagda.md [hunk 7]
```diff
@@ -0,0 +1,115 @@
...
+
+  type-cocone-Pointed-Type :
+    {l4 : Level} → Pointed-Type l4 → UU (l1 ⊔ l2 ⊔ l3 ⊔ l4)
+  type-cocone-Pointed-Type X =
+    Σ ( A →∗ X)
+      ( λ i →
+        Σ ( B →∗ X)
+          ( λ j → coherence-square-pointed-maps g f j i))
+
+  cocone-Pointed-Type :
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/cocones-under-spans-of-pointed-types.lagda.md:48]: Is the idea behind this definition that `map-cocone` becomes a pointed map?

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/cocones-under-spans-of-pointed-types.lagda.md:48]: The idea is that cocones in the category of pointed types is a pointed object

File: src/synthetic-homotopy-theory/pushouts.lagda.md [hunk 8]
```diff
@@ -89,3 +84,68 @@ is-pushout :
...
+        ( _∙ inv (compute-inr-cogap f g c (g s)))
+        ( pr2
+          ( pr2
+            ( htpy-cocone-map-universal-property-pushout
+              ( f)
+              ( g)
+              ( cocone-pushout f g)
+              ( up-pushout f g)
+              ( c)))
+          ( s)))))
```
Comment (fredrik-bakke) [inline src/synthetic-homotopy-theory/pushouts.lagda.md:150]: I found a slicker argument for this, give me a couple of minutes

Comment (fredrik-bakke) [reply src/synthetic-homotopy-theory/pushouts.lagda.md]: Okay done! 😄

File: src/synthetic-homotopy-theory/pushouts.lagda.md [hunk 9]
```diff
@@ -128,24 +128,17 @@ compute-glue-cogap :
...
-        ( pr2
-          ( pr2
-            ( htpy-cocone-map-universal-property-pushout
-              ( f)
-              ( g)
-              ( cocone-pushout f g)
-              ( up-pushout f g)
-              ( c)))
-          ( s)))))
+  con-inv
```
Comment (EgbertRijke) [inline src/synthetic-homotopy-theory/pushouts.lagda.md:131]: Oh yeah `con-inv` can be a life saver:)
